US05254565
A mixture of methyl 4-(2-chlorophenyl)-6,8-dimehtyl-3-quinolinecarboxylate (0.98 g), potassium hydroxide (0.5 g) and 80% ethanol (10 ml) was refluxed for 15 mins. The mixture was diluted with water and acidified with hydrochloric acid to give 4-(2-chlorophenyl)-6,8-dimethyl-3-quinolinecarboxylic acid as crystals (0.90 g, 96.8%), which was recrystallized from ethanol as colorless prisms. m.p. 234°-235° C.

reactant | methyl 4-(2-chlorophenyl)-6,8-dimehtyl-3-quinolinecarboxylate | 0.98 g | ClC1=C(C=CC=C1)C1=C(C=NC2=C(C=C(C=C12)C)C)C(=O)OC | C19H16ClNO2
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-(2-chlorophenyl)-6,8-dimethyl-3-quinolinecarboxylic acid | 0.90 g, 96.8% | ClC1=C(C=CC=C1)C1=C(C=NC2=C(C=C(C=C12)C)C)C(=O)O | C18H14ClNO2
